US04110447
A solution of 2.77 g of 1-pyrrolidino-3-p-biphenylyl-1-butene (obtainable from 3-p-biphenylyl-butanal and pyrrolidine) in 35 ml of ethanol is hydrogenated, over 0.5 g of Raney nickel, for 3 hours at 6 atms and 60°. The catalyst is filtered off and the solution is evaporated to give 1-pyrrolidino-3-p-biphenylyl-butane.

reactant | 1-pyrrolidino-3-p-biphenylyl-1-butene | 2.77 g | N1(CCCC1)C=CC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H23N
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 1-pyrrolidino-3-p-biphenylyl-butane | N1(CCCC1)CCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H25N
